US07179820B2
7-[(R)-2-((E)-3-Hydroxy-4-phenyl-but-1-enyl)-6-oxo-piperidin-1-yl]-heptanoic Acid
Rabbit liver esterase (134 units/mg, 1 mg) was added to a solution of 7-[(R)-2-((E)-3-hydroxy-4-phenyl-but-1-enyl)-6-oxo-piperidin-1-yl]-heptanoic acid methyl ester (15 mg, 0.39 mmol) in acetonitrile (0.2 mL) and pH 7.2 phosphate buffer (3.0 mL). After 16.5 h, acetonitrile (5 mL) was added and the reaction mixture was concentrated to dryness in vacuo. Purification of the residue by flash column chromatography on silica gel (CH2Cl2→2% MeOH/CH2Cl2, gradient) afforded 8.7 mg (60%) of the title compound.

reactant | 7-[(R)-2-((E)-3-hydroxy-4-phenyl-but-1-enyl)-6-oxo-piperidin-1-yl]-heptanoic acid methyl ester | 0.39 mmol, 15 mg | COC(CCCCCCN1[C@H](CCCC1=O)\C=C\C(CC1=CC=CC=C1)O)=O | C23H33NO4
solvent | acetonitrile | 0.2 mL | C(C)#N | C2H3N
solvent | phosphate | 3.0 mL, pH 7.2 | P(=O)([O-])([O-])[O-]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 7-[(R)-2-((E)-3-Hydroxy-4-phenyl-but-1-enyl)-6-oxo-piperidin-1-yl]-heptanoic Acid | 8.7 mg, 60% | OC(/C=C/[C@@H]1N(C(CCC1)=O)CCCCCCC(=O)O)CC1=CC=CC=C1 | C22H31NO4
